** sch_path: /foss/designs/Analog_FA23_SP24/flashADC/xschem/flashADC.sch
.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include /foss/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

.subckt flashADC VFS OUT3 OUT2 OUT1 OUT0 VL VDD CLK VIN GND
*.PININFO OUT3:O OUT2:O OUT1:O OUT0:O VFS:I VL:I VDD:I GND:I CLK:I VIN:I
XR1 VL net2 GND sky130_fd_pr__res_xhigh_po_5p73 L=2.667 mult=8 m=8
XR2 net2 net1 GND sky130_fd_pr__res_xhigh_po_5p73 L=2.667 mult=8 m=8
XR3 net1 net3 GND sky130_fd_pr__res_xhigh_po_5p73 L=2.667 mult=8 m=8
XR4 net3 net4 GND sky130_fd_pr__res_xhigh_po_5p73 L=2.667 mult=8 m=8
XR5 net4 net5 GND sky130_fd_pr__res_xhigh_po_5p73 L=2.667 mult=8 m=8
XR6 net5 net6 GND sky130_fd_pr__res_xhigh_po_5p73 L=2.667 mult=8 m=8
XR7 net6 net7 GND sky130_fd_pr__res_xhigh_po_5p73 L=2.667 mult=8 m=8
XR8 net7 net8 GND sky130_fd_pr__res_xhigh_po_5p73 L=2.667 mult=8 m=8
XR9 net8 net9 GND sky130_fd_pr__res_xhigh_po_5p73 L=2.667 mult=8 m=8
XR10 net9 net10 GND sky130_fd_pr__res_xhigh_po_5p73 L=2.667 mult=8 m=8
XR11 net10 net11 GND sky130_fd_pr__res_xhigh_po_5p73 L=2.667 mult=8 m=8
XR12 net11 net12 GND sky130_fd_pr__res_xhigh_po_5p73 L=2.667 mult=8 m=8
XR13 net12 net13 GND sky130_fd_pr__res_xhigh_po_5p73 L=2.667 mult=8 m=8
XR14 net13 net14 GND sky130_fd_pr__res_xhigh_po_5p73 L=2.667 mult=8 m=8
XR15 net14 net15 GND sky130_fd_pr__res_xhigh_po_5p73 L=2.667 mult=8 m=8
XR16 net15 net16 GND sky130_fd_pr__res_xhigh_po_5p73 L=2.667 mult=8 m=8
XR18 net16 VFS GND sky130_fd_pr__res_xhigh_po_5p73 L=2.667 mult=8 m=8
x1 OUT3 VDD net17 net18 net19 net20 net21 net22 OUT2 net23 net24 VDD net25 net26 net27 net28 OUT1 net29 net30 GND net31 net32 OUT0
+ 16to4_PriorityEncoder_v0p0p1
x18 VDD IB GND PTAT_v0p0p0
x2 VDD GND net15 VIN CLK net18 IB frontAnalog_v0p0p1
x3 VDD GND net14 VIN CLK net19 IB frontAnalog_v0p0p1
x4 VDD GND net13 VIN CLK net20 IB frontAnalog_v0p0p1
x5 VDD GND net12 VIN CLK net21 IB frontAnalog_v0p0p1
x6 VDD GND net11 VIN CLK net22 IB frontAnalog_v0p0p1
x7 VDD GND net10 VIN CLK net23 IB frontAnalog_v0p0p1
x8 VDD GND net9 VIN CLK net24 IB frontAnalog_v0p0p1
x9 VDD GND net8 VIN CLK net25 IB frontAnalog_v0p0p1
x10 VDD GND net7 VIN CLK net26 IB frontAnalog_v0p0p1
x11 VDD GND net6 VIN CLK net27 IB frontAnalog_v0p0p1
x12 VDD GND net5 VIN CLK net28 IB frontAnalog_v0p0p1
x13 VDD GND net4 VIN CLK net29 IB frontAnalog_v0p0p1
x14 VDD GND net3 VIN CLK net30 IB frontAnalog_v0p0p1
x15 VDD GND net1 VIN CLK net31 IB frontAnalog_v0p0p1
x16 VDD GND net2 VIN CLK net32 IB frontAnalog_v0p0p1
x17 VDD GND net16 VIN CLK net17 IB frontAnalog_v0p0p1
XC1 IB GND sky130_fd_pr__cap_mim_m3_2 W=30 L=30 m=70
.ends

* expanding   symbol:  /foss/designs/Analog_FA23_SP24/PriorityEncoder/xschem/16to4_PriorityEncoder_v0p0p1.sym # of pins=23
** sym_path: /foss/designs/Analog_FA23_SP24/PriorityEncoder/xschem/16to4_PriorityEncoder_v0p0p1.sym
** sch_path: /foss/designs/Analog_FA23_SP24/PriorityEncoder/xschem/16to4_PriorityEncoder_v0p0p1.sch
.subckt 16to4_PriorityEncoder_v0p0p1 A3 EI I15 I14 I13 I12 I11 I10 A2 I9 I8 VDD I7 I6 I5 I4 A1 I3 I2 GND I1 I0 A0
*.PININFO I14:I I13:I I12:I I11:I I10:I I9:I I8:I I7:I I6:I I5:I I4:I I3:I I2:I I1:I I0:I A3:O I15:I EI:I A2:O A1:O A0:O VDD:I
*+ GND:I
x11 net4 net5 GND GND VDD VDD net14 sky130_fd_sc_hd__or2_1
x20 net15 GND GND VDD VDD net16 sky130_fd_sc_hd__inv_1
x21 net16 GND GND VDD VDD net17 sky130_fd_sc_hd__inv_4
x22 net17 GND GND VDD VDD net13 sky130_fd_sc_hd__inv_16
x27 net18 GND GND VDD VDD net19 sky130_fd_sc_hd__inv_1
x28 net19 GND GND VDD VDD net20 sky130_fd_sc_hd__inv_4
x29 net20 GND GND VDD VDD net12 sky130_fd_sc_hd__inv_16
x34 net14 GND GND VDD VDD net21 sky130_fd_sc_hd__inv_1
x35 net21 GND GND VDD VDD net22 sky130_fd_sc_hd__inv_4
x36 net22 GND GND VDD VDD net11 sky130_fd_sc_hd__inv_16
x41 net3 GND GND VDD VDD net23 sky130_fd_sc_hd__inv_1
x42 net23 GND GND VDD VDD net24 sky130_fd_sc_hd__inv_4
x43 net24 GND GND VDD VDD net10 sky130_fd_sc_hd__inv_16
x7 net2 GND GND VDD VDD net1 sky130_fd_sc_hd__inv_1
x1 net6 net7 GND GND VDD VDD net18 sky130_fd_sc_hd__or2_1
x2 net8 net9 GND GND VDD VDD net15 sky130_fd_sc_hd__or2_1
* noconn #net25
* noconn #net26
x5 I9 I13 I11 I8 I10 I14 I15 I12 net2 net3 net4 net6 net8 EI VDD GND 8to3_Priority_Encoder_v0p2p0
x3 I1 I5 I3 I0 I2 I6 I7 I4 net25 net26 net5 net7 net9 net1 VDD GND 8to3_Priority_Encoder_v0p2p0
x6 net10 GND GND VDD VDD A3 sky130_fd_sc_hd__inv_16
x4 net10 GND GND VDD VDD A3 sky130_fd_sc_hd__inv_16
x8 net10 GND GND VDD VDD A3 sky130_fd_sc_hd__inv_16
x9 net10 GND GND VDD VDD A3 sky130_fd_sc_hd__inv_16
x10 net11 GND GND VDD VDD A2 sky130_fd_sc_hd__inv_16
x12 net11 GND GND VDD VDD A2 sky130_fd_sc_hd__inv_16
x13 net11 GND GND VDD VDD A2 sky130_fd_sc_hd__inv_16
x14 net11 GND GND VDD VDD A2 sky130_fd_sc_hd__inv_16
x15 net12 GND GND VDD VDD A1 sky130_fd_sc_hd__inv_16
x16 net12 GND GND VDD VDD A1 sky130_fd_sc_hd__inv_16
x17 net12 GND GND VDD VDD A1 sky130_fd_sc_hd__inv_16
x18 net12 GND GND VDD VDD A1 sky130_fd_sc_hd__inv_16
x19 net13 GND GND VDD VDD A0 sky130_fd_sc_hd__inv_16
x23 net13 GND GND VDD VDD A0 sky130_fd_sc_hd__inv_16
x24 net13 GND GND VDD VDD A0 sky130_fd_sc_hd__inv_16
x25 net13 GND GND VDD VDD A0 sky130_fd_sc_hd__inv_16
.ends


* expanding   symbol:  /foss/designs/Analog_FA23_SP24/PTAT/xschem/PTAT_v0p0p0.sym # of pins=3
** sym_path: /foss/designs/Analog_FA23_SP24/PTAT/xschem/PTAT_v0p0p0.sym
** sch_path: /foss/designs/Analog_FA23_SP24/PTAT/xschem/PTAT_v0p0p0.sch
.subckt PTAT_v0p0p0 VDD VOUT VSS
*.PININFO VSS:I VDD:I VOUT:O
XM1 net1 net2 VDD VDD sky130_fd_pr__pfet_01v8_lvt L=1 W=19 nf=1 m=1
XM2 net2 net2 VDD VDD sky130_fd_pr__pfet_01v8_lvt L=1 W=19 nf=1 m=1
XM3 VOUT net2 VDD VDD sky130_fd_pr__pfet_01v8_lvt L=1 W=19 nf=1 m=1
XM4 net1 net1 VSS VSS sky130_fd_pr__nfet_01v8_lvt L=0.6 W=4 nf=1 m=1
XM5 net2 net1 net3 VSS sky130_fd_pr__nfet_01v8_lvt L=0.6 W=4 nf=1 m=20
XM6 net2 net2 net1 VSS sky130_fd_pr__nfet_01v8_lvt L=0.15 W=0.42 nf=1 m=1
XM7 VOUT VOUT VSS VSS sky130_fd_pr__nfet_01v8_lvt L=0.6 W=4 nf=1 m=1
XR1 VSS net3 VSS sky130_fd_pr__res_xhigh_po_5p73 L=85.94 mult=1 m=1
XR2 VSS net3 VSS sky130_fd_pr__res_xhigh_po_5p73 L=85.94 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/Analog_FA23_SP24/flashADC/xschem/frontAnalog_v0p0p1.sym # of pins=7
** sym_path: /foss/designs/Analog_FA23_SP24/flashADC/xschem/frontAnalog_v0p0p1.sym
** sch_path: /foss/designs/Analog_FA23_SP24/flashADC/xschem/frontAnalog_v0p0p1.sch
.subckt frontAnalog_v0p0p1 VDD GND VN VIN CLK Q IB
*.PININFO VDD:I GND:I VN:I VIN:I IB:I CLK:I Q:O
x63 net1 GND GND VDD VDD net3 sky130_fd_sc_hd__buf_1
x65 net2 GND GND VDD VDD net4 sky130_fd_sc_hd__buf_1
* noconn #net5
x1 VDD net3 net4 Q net5 GND RSfetsym
x2 VDD net2 net1 VN VIN CLK IB GND class_AB_v4_sym
.ends


* expanding   symbol:  /foss/designs/Analog_FA23_SP24/PriorityEncoder/xschem/8to3_Priority_Encoder_v0p2p0.sym # of pins=16
** sym_path: /foss/designs/Analog_FA23_SP24/PriorityEncoder/xschem/8to3_Priority_Encoder_v0p2p0.sym
** sch_path: /foss/designs/Analog_FA23_SP24/PriorityEncoder/xschem/8to3_Priority_Encoder_v0p2p0.sch
.subckt 8to3_Priority_Encoder_v0p2p0 I1 I5 I3 I0 I2 I6 I7 I4 EO GS A2 A1 A0 EI VDD GND
*.PININFO I0:I I1:I I2:I I3:I I4:I I5:I I6:I I7:I EI:I EO:O GS:O A2:O A1:O A0:O VDD:I GND:I
x9 EI GND GND VDD VDD net5 sky130_fd_sc_hd__inv_1
x1 I0 I1 I2 I3 GND GND VDD VDD net7 sky130_fd_sc_hd__or4_1
x2 I4 I5 I6 I7 GND GND VDD VDD net6 sky130_fd_sc_hd__or4_1
x4 net5 net7 net6 GND GND VDD VDD EO sky130_fd_sc_hd__or3_1
x8 EO EI GND GND VDD VDD GS sky130_fd_sc_hd__and2_1
x10 EI I4 GND GND VDD VDD net8 sky130_fd_sc_hd__and2_1
x11 EI I5 GND GND VDD VDD net9 sky130_fd_sc_hd__and2_1
x12 EI I6 GND GND VDD VDD net10 sky130_fd_sc_hd__and2_1
x13 EI I7 GND GND VDD VDD net11 sky130_fd_sc_hd__and2_1
x14 net8 net9 net10 net11 GND GND VDD VDD A2 sky130_fd_sc_hd__or4_1
x17 net10 net11 net13 net12 GND GND VDD VDD A1 sky130_fd_sc_hd__or4_1
x15 I2 net2 net3 EI GND GND VDD VDD net13 sky130_fd_sc_hd__and4_1
x16 I3 net2 net3 EI GND GND VDD VDD net12 sky130_fd_sc_hd__and4_1
x18 net2 I1 net1 net4 GND GND VDD VDD net14 sky130_fd_sc_hd__and4_1
x19 EI I3 net2 net4 GND GND VDD VDD net15 sky130_fd_sc_hd__and4_1
x20 I5 net4 EI GND GND VDD VDD net17 sky130_fd_sc_hd__and3_1
x21 EI net14 GND GND VDD VDD net16 sky130_fd_sc_hd__and2_1
x22 net11 net16 net15 net17 GND GND VDD VDD A0 sky130_fd_sc_hd__or4_1
x3 I6 GND GND VDD VDD net4 sky130_fd_sc_hd__inv_1
x5 I5 GND GND VDD VDD net3 sky130_fd_sc_hd__inv_1
x6 I4 GND GND VDD VDD net2 sky130_fd_sc_hd__inv_1
x7 I2 GND GND VDD VDD net1 sky130_fd_sc_hd__inv_1
.ends


* expanding   symbol:  /foss/designs/Analog_FA23_SP24/RSlatch/xschem/RSfetsym.sym # of pins=6
** sym_path: /foss/designs/Analog_FA23_SP24/RSlatch/xschem/RSfetsym.sym
** sch_path: /foss/designs/Analog_FA23_SP24/RSlatch/xschem/RSfetsym.sch
.subckt RSfetsym VDD S R Q QN GND
*.PININFO Q:O QN:O S:I R:I VDD:B GND:B
XM1 QN S net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1
XM2 net1 Q GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1
XM3 Q R net2 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1
XM4 net2 QN GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1
XM5 QN Q VDD VDD sky130_fd_pr__pfet_01v8 L=0.30 W=2 nf=1 m=1
XM6 Q QN VDD VDD sky130_fd_pr__pfet_01v8 L=0.30 W=2 nf=1 m=1
XM7 QN S VDD VDD sky130_fd_pr__pfet_01v8 L=0.25 W=4 nf=2 m=1
XM8 Q R VDD VDD sky130_fd_pr__pfet_01v8 L=0.25 W=4 nf=2 m=1
XM9 QN net3 GND GND sky130_fd_pr__nfet_01v8 L=0.25 W=2 nf=1 m=1
XM10 Q net4 GND GND sky130_fd_pr__nfet_01v8 L=0.25 W=2 nf=1 m=1
x2 R GND GND VDD VDD net3 sky130_fd_sc_hd__inv_4
x1 S GND GND VDD VDD net4 sky130_fd_sc_hd__inv_4
.ends


* expanding   symbol:  /foss/designs/Analog_FA23_SP24/strongARM/class_AB_v4_sym.sym # of pins=8
** sym_path: /foss/designs/Analog_FA23_SP24/strongARM/class_AB_v4_sym.sym
** sch_path: /foss/designs/Analog_FA23_SP24/strongARM/class_AB_v4_sym.sch
.subckt class_AB_v4_sym VDD VON VOP VIN VIP CLK IB VSS
*.PININFO VDD:B IB:I VSS:B VIP:I VIN:I VON:O VOP:O CLK:I
XM17 net3 VIP VIR VSS sky130_fd_pr__nfet_01v8_lvt L=0.6 W=4 nf=1 m=1
XM15 net2 VIN VIR VSS sky130_fd_pr__nfet_01v8_lvt L=0.6 W=4 nf=1 m=1
XM13 VIR IB VSS VSS sky130_fd_pr__nfet_01v8_lvt L=0.6 W=4 nf=1 m=2
XM6 VON VOP VDD VDD sky130_fd_pr__pfet_01v8_lvt L=0.35 W=4 nf=1 m=1
XM7 VOP VON VDD VDD sky130_fd_pr__pfet_01v8_lvt L=0.35 W=4 nf=1 m=1
XM10 VOP VON net1 VSS sky130_fd_pr__nfet_01v8_lvt L=0.15 W=1 nf=1 m=1
XM11 VON VOP net1 VSS sky130_fd_pr__nfet_01v8_lvt L=0.15 W=1 nf=1 m=1
XM1 net1 CLK VSS VSS sky130_fd_pr__nfet_01v8_lvt L=0.15 W=1 nf=1 m=1
XM2 VOP CLK VON VDD sky130_fd_pr__pfet_01v8_lvt L=0.35 W=4 nf=1 m=1
XM9 net2 CLK VOP VDD sky130_fd_pr__pfet_01v8_lvt L=0.35 W=4 nf=1 m=1
XM14 net3 CLK VON VDD sky130_fd_pr__pfet_01v8_lvt L=0.35 W=4 nf=1 m=1
XM3 VDD CLK net3 VSS sky130_fd_pr__nfet_01v8_lvt L=0.6 W=4 nf=1 m=1
XM4 VDD CLK net2 VSS sky130_fd_pr__nfet_01v8_lvt L=0.6 W=4 nf=1 m=1
XC1 VIP net2 VSS sky130_fd_pr__cap_var_lvt W=2 L=0.18 m=1
XC2 VIN net3 VSS sky130_fd_pr__cap_var_lvt W=2 L=0.18 m=1
.ends

.GLOBAL VDD
.GLOBAL GND
.end
